US06211215B1
In substantially the same manner as in Reference Example 88, 4-(3-benzyloxyphenyl)butyl methanesulfonate was allowed to react with imidazole to give 1-[4-(3-benzyloxyphenyl)butyl]imidazole. The yield was 61%. Oily substance.

reactant | 4-(3-benzyloxyphenyl)butyl methanesulfonate | CS(=O)(=O)OCCCCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C18H22O4S
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 1-[4-(3-benzyloxyphenyl)butyl]imidazole | yield was 61% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCCN1C=NC=C1 | C20H22N2O
